US04937337
3-(2-methoxypropoxy)-1-pyrrolidinopropan-2-ol.
20 g. 1-(2-Methylpropoxy)-2,3-epoxypropane are dissolved in 40 ml. ethanol and the solution is warmed to 55° C. Subsequently, in the course of an hour and while stirring, there is added dropwise a solution of 13 g. pyrrolidine in 25 ml. ethanol. The temperature should thereby not increase above 70° C. After completion of the addition, stirring is continued for 1 hour at 70° C., the reaction mixture is then evaporated and the residue is distilled in a vacuum. There are obtained 35 g. 3-(2-methylpropoxy)-1-pyrrolidinopropan-2-ol; b.p. 134° C./14 mm.Hg.

reactant | 1-(2-Methylpropoxy)-2,3-epoxypropane | CC(COCC1CO1)C | C7H14O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-(2-methylpropoxy)-1-pyrrolidinopropan-2-ol | CC(COCC(CN1CCCC1)O)C | C11H23NO2
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-methoxypropoxy)-1-pyrrolidinopropan-2-ol | COC(COCC(CN1CCCC1)O)C | C11H23NO3
